US05334604
2-(2-Phenyl-5-methyloxazol-4-ylcarbonyl)-5-bromobenzofuran
To a slurry of 294 g of 5-bromosalicylaldehyde in 3 liters of dry ethanol was added 79.06 g of sodium methoxide and the mixture allowed to stir for 20 minutes. To the resulting yellow slurry was added 410 g of 2-phenyl-4-bromoacetyl-5-methyloxazole and the slurry heated to 78° C. for 2 hours. An additional 250 mg of sodium methoxide was added and heating continued overnight under a nitrogen atmosphere. The reaction was cooled and the solids filtered and washed with ethanol, 393 g, mp 212°-213° C.

reactant | 5-bromosalicylaldehyde | 294 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | sodium methoxide | 79.06 g | C[O-].[Na+]
reactant | 2-phenyl-4-bromoacetyl-5-methyloxazole | 410 g | C1(=CC=CC=C1)C=1OC(=C(N1)C(CBr)=O)C | C12H10BrNO2
reactant | sodium methoxide | 250 mg | C[O-].[Na+]
solvent | ethanol | 3 liters | C(C)O | C2H6O
product | 2-(2-Phenyl-5-methyloxazol-4-ylcarbonyl)-5-bromobenzofuran | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)C=1OC2=C(C1)C=C(C=C2)Br)C | C19H12BrNO3
